US04368068
3-(4-Hydroxyphenoxy)-7-chloro-1,2,4-benzotriazine-1-oxide
A solution of 0.05 mole borontribromide in 100 cc methylene chloride is added, dropwise, to a well stirred cold (-62°) solution of 3-(4-benzyloxyphenoxy)-1,2,4-benzotriazine-1-oxide (0.05 mole) in 400 cc methylene chloride. When the addition is complete, the temperature of the reaction is allowed to rise slowly to room temperature. The reaction mixture is then poured into 1 liter of water and an additional 500 cc of methylene chloride is added. The mixture is stirred vigorously for 40 minutes and the insoluble solid is filtered.

reactant | 3-(4-benzyloxyphenoxy)-1,2,4-benzotriazine-1-oxide | 0.05 mole | C(C1=CC=CC=C1)OC1=CC=C(OC=2N=[N+](C3=C(N2)C=CC=C3)[O-])C=C1 | C20H15N3O3
reactant | water | 1 liter | O | H2O
reactant | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 400 cc | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 500 cc | C(Cl)Cl | CH2Cl2
product | 3-(4-Hydroxyphenoxy)-7-chloro-1,2,4-benzotriazine-1-oxide | OC1=CC=C(OC=2N=[N+](C3=C(N2)C=CC(=C3)Cl)[O-])C=C1 | C13H8ClN3O3
